US08048862B2
To a solution of ethyl-2-(N-tert-butylsulfamoyl)acetate (4 g, 17.9 mmol.) in 65 mL of EtOH and 13 mL of H2O at 0° C. was slowly added NaOH (3.6 g, 89.5 mmol.). The reaction was allowed to room temperature and stirred overnight. TLC analysis showed the reaction complete. The mixture was acidified to pH=5 with aq. HCl (1M). The resulting mixture was extracted with EtOAc (30 mL×3). The combined organic layer was dried over Na2SO4, concentrated to afford crude 2-(N-tert-butylsulfamoyl)acetic acid (2.4 g, 69%), which was used directly without purification.

reactant | ethyl-2-(N-tert-butylsulfamoyl)acetate | 17.9 mmol, 4 g | C(C)OC(CS(NC(C)(C)C)(=O)=O)=O | C8H17NO4S
reactant | NaOH | 89.5 mmol, 3.6 g | [OH-].[Na+]
reactant | HCl | 1M | Cl | ClH
solvent | EtOH | 65 mL | CCO | C2H6O
solvent | H2O | 13 mL | O | H2O
product | 2-(N-tert-butylsulfamoyl)acetic acid | 2.4 g, 69% | C(C)(C)(C)NS(=O)(=O)CC(=O)O | C6H13NO4S
